US04239887
3,7-Dimethylpyrido[3',2':4,5]thieno[3,2-d]-1,2,3-triazine-4-one
To a mixture of 6 g. (0.028 M) of 4-hydroxy-7-methylpyrido[3',2':4,5]thieno[3,2-d]-1,2,3-triazine, 12 g. of K2CO3 in 150 ml. DMF at 75° C. was added 6 ml. methyl iodide and stirring at this temperature was continued for 3 hours. The mixture was then diluted with water and the precipitated product was collected by filtration. Crystallization with chloroform gave m.p. 169°-171° C.

reactant | 4-hydroxy-7-methylpyrido[3',2':4,5]thieno[3,2-d]-1,2,3-triazine | 0.028 M | OC=1C2=C(N=NN1)C1=C(S2)N=C(C=C1)C | C9H6N4OS
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | CN(C)C=O | C3H7NO
reactant | methyl iodide | CI | CH3I
solvent | water | O | H2O
product | 3,7-Dimethylpyrido[3',2':4,5]thieno[3,2-d]-1,2,3-triazine-4-one | CN1N=NC2=C(C1=O)SC1=C2C=CC(=N1)C | C10H8N4OS
